US09085583B2
To a solution of benzoic peroxide (20 g, 141 mmol) in 200 mL 1,4-dioxane at room temperature under nitrogen atmosphere was added biacetyl (24.3 g, 282 mmol). After the addition, the mixture was heated to reflux and stirred for 24 hours. The reaction mixture was cooled to 0° C. The pH was adjusted to around 9 by progressively adding 2N sodium hydroxide below 0° C., extracted with 2-methoxy-2-methylpropane (10 mL×3), and concentrated to give 1-(1,4-dioxan-2-yl)ethanone (13 g, 36%) as a yellow oil which was used directly in the next step without purification.

reactant | biacetyl | 282 mmol, 24.3 g | C(=O)(C)C(=O)C | C4H6O2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | 1-(1,4-dioxan-2-yl)ethanone | 13 g, 36% | O1C(COCC1)C(C)=O | C6H10O3
